US05514680
Preparation of 5-Bromo-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
The title compound was prepared using an adaptation of the method of Cheeseman, G. W. H., J. Chem. Soc. 1171 (1962). A mixture of diethyl oxalate (1.15 g, 7.91 mmol) and 1,2-diamino-3-bromo-5-trifluoromethylbenzene (200 mg, 0.95 mmol) was heated to reflux under N2 for 2 h. The reaction was allowed to cool to room temperature and the solid collected by vacuum filtration and rinsed with EtOH (15 mL). This white solid was dried in a drying pistol (0.05 torr, 78° C.) to yield 148.3 mg (60.7%). mp 301-304 (dec). 1H NMR (d6 -DMSO) δ7.28 (s, 1H, ArH), 7.56 (s, 1H, ArH), 11.7 (br s, 2H, NH). 19F NMR (C6F6 external standard, δ-162.9) δ-57.97 (s). EIHRMS calc. for C9H4BrF3N2O2 307.9408, found 307.9411.

reactant | diethyl oxalate | 7.91 mmol, 1.15 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 1,2-diamino-3-bromo-5-trifluoromethylbenzene | 0.95 mmol, 200 mg | NC1=C(C(=CC(=C1)C(F)(F)F)Br)N | C7H6BrF3N2
product | 5-Bromo-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | BrC1=C2NC(C(NC2=CC(=C1)C(F)(F)F)=O)=O | C9H4BrF3N2O2
